US04279912
820 mg of ethyl 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate were dissolved in 50 ml of ethanol and 6.6 ml of 0.5 N sodium hydroxide solution were added to the solution obtained. The resultant mixture was refluxed for 1 hour, then was cooled to room temperature and acidified to a pH of ~1 by addition of concentrated hydrochloric acid. The solvent was removed under vacuum and the residue was dissolved in methanol. The solution formed was filtered and the filtrate was reduced in volume under vacuum and then was cooled to obtain off-white crystals of 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid hydrochloride melting at 263°-265° C. (decomposition).

reactant | ethyl 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate | 820 mg | ClC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C14H11ClN2O2
reactant | sodium hydroxide | 0.5 N, 6.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid hydrochloride | Cl.ClC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)O | InChI=1S/C12H7ClN2O2.ClH/c13-8-5-11-14-9(12(16)17)6-15(11)10-4-2-1-3-7(8)10;/h1-6H,(H,16,17);1H
